US09126991B2
Preparation of N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrochloride crystalline polymorph
To a stirred suspension of N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide (3.5 g, 7.75 mmol) in methanol (4 mL) and ethyl acetate (17.5 mL) was added 4.0 N hydrogen chloride in dioxane (8.0 mL). The resulting mixture was stirred for 8 h, the solvent removed under reduced pressure and the residue dried in vacuo. The residue was suspended in 10% methanol in acetonitrile (17.5 mL) and stirred at room temperature for 1 h. The solid was filtered, washed with 10% methanol in acetonitrile (17.5 mL) and dried under reduced pressure at 45° C. to afford the title compound (3.32 g, 90.2%) as a crystalline solid which was characterized by XRPD. FIG. 1 shows a characteristic X-ray powder diffraction (XRPD) pattern of N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrochloride. Characteristic peaks, expressed in degrees 2θ, are listed in Table 1.

reactant | N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | 7.75 mmol, 3.5 g | FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)CNCC1=CN=NN1 | C22H23FN6O3
reactant | hydrogen chloride | 4.0 N | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | 17.5 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
product | N-{[(5S)-3-(2-fluoro-4′-{[(1H-1,2,3-triazol-5-ylmethyl)amino]methyl}biphenyl-4-yl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide monohydrochloride | 3.32 g, 90.2% | Cl.FC1=C(C=CC(=C1)N1C(O[C@H](C1)CNC(C)=O)=O)C1=CC=C(C=C1)CNCC1=CN=NN1 | InChI=1S/C22H23FN6O3.ClH/c1-14(30)25-12-19-13-29(22(31)32-19)18-6-7-20(21(23)8-18)16-4-2-15(3-5-16)9-24-10-17-11-26-28-27-17;/h2-8,11,19,24H,9-10,12-13H2,1H3,(H,25,30)(H,26,27,28);1H/t19-;/m0./s1
